US03937705
A solution of 8.5 g. of 2-isopropylamino-4-methyl-4'-fluoro-benzophenone and 4.2 g. of potassium isocyanate in 100 ml. of glacial acetic acid is stirred at 60°-70°C. for 20 hours. The resulting mixture is treated with a mixture of ice and water and extracted three times with methylene chloride. The organic phases are combined, washed twice with water, once with sodium bicarbonate solution and again with water followed by drying and evaporation in vacuo. The residue is dissolved in a small amount of methylene chloride and precipitated by adding pentane. The resulting solid is redissolved in methylene chloride, treated with charcoal and diethyl ether exchanged for the methylene chloride to obtain a solid which is dried in a high vacuum at 60°C. to yield 1-isopropyl-7-methyl-4-(p-fluorophenyl)-2(1H)-quinazolinone, m.p. 172°-174°C.

reactant | 2-isopropylamino-4-methyl-4'-fluoro-benzophenone | C(C)(C)NC1=C(C(=O)C2=CC=C(C=C2)F)C=CC(=C1)C | C17H18FNO
reactant | potassium isocyanate | [N-]=C=O.[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-isopropyl-7-methyl-4-(p-fluorophenyl)-2(1H)-quinazolinone | C(C)(C)N1C(N=C(C2=CC=C(C=C12)C)C1=CC=C(C=C1)F)=O | C18H17FN2O
